US08217168B2
6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (E1)
6-methyl-4-(phenylcarbonyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (P4, 102 mg, 0.205 mmol) was dissolved in a 2.0 M solution of ammonia in MeOH (2.046 ml, 4.09 mmol) and the mixture was stirred for 2 hours at rt. Solvent was eliminated under reduced pressure and crude was purified by flash chromatography (eluent DCM to DCM/MeOH/NH3 9:1:0.1) affording the title compound 6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (E1, 67.7 mg, 0.172 mmol).

reactant | 6-methyl-4-(phenylcarbonyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.205 mmol, 102 mg | CC=1C(N(C(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)C(=O)C1=CC=CC=C1)=O | C26H25F3N4O3
reactant | MeOH | 4.09 mmol, 2.046 ml | CO | CH4O
solvent | ammonia | N | H3N
product | 6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.172 mmol, 67.7 mg | CC=1C(NC(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C19H21F3N4O2
